US09403849B2
a) 1,4-Bis(anthracen-9-yl)naphthalene
Procedure analogous to Example 3a. Instead of 149.0 ml (1.2 mol) of 1,2-dibromobenzene and 98.0 g (308 mmol) of 9,10-anthracenediboronic acid ethylene glycol ester, 28.6 g (100 mmol) of 1,4-dibromonaphthalene and 68.0 g (306 mmol) of 9-anthraceneboronic acid are used. After cooling, the solid is filtered off with suction and washed twice with 500 ml of boiling ethanol each time. Yield: 33.0 g (69 mmol), 68.7% of theory; purity: 98% according to 1H-NMR.

reactant | 1,2-dibromobenzene | 1.2 mol, 149.0 ml | BrC1=C(C=CC=C1)Br | C6H4Br2
reactant | 1,4-dibromonaphthalene | 100 mmol, 28.6 g | BrC1=CC=C(C2=CC=CC=C12)Br | C10H6Br2
reactant | 9-anthraceneboronic acid | 306 mmol, 68.0 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)B(O)O | C14H11BO2
product | 1,4-Bis(anthracen-9-yl)naphthalene | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C1=CC=C(C2=CC=CC=C12)C=1C2=CC=CC=C2C=C2C=CC=CC12 | C38H24
